US05030792
The resultant 1,7-octadienyl trifluoroacetate was hydrogenated at 150 psig of hydrogen at ambient temperature using 5% palladium on BaSO4 to produce trifluoroacetoxyoctane.

reactant | 1,7-octadienyl trifluoroacetate | FC(C(=O)OC=CCCCCC=C)(F)F | C10H13F3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | trifluoroacetoxyoctane | FC(C(=O)OCCCCCCCC)(F)F | C10H17F3O2
